US07091232B2
Use of 2-chlorocinnamic acid (Intermediate TWENTYTHREE-1) (commercially available from Aldrich) in the applicable process steps described in Method TWENTY produced 4-chloro-indan-1-one (Intermediate TWENTYFOUR-1). Triethylphosphonoacetate (3.5 mL, 17.2 mmol) was added to a mixture of NaH (0.69 g, 12.2 mmol) in THF (25 mL). After 30 m, a solution of 4-chloro-indan-1-one (Intermediate TWENTYFOUR-1) (1.46 g, 8.8 mmol) in THF (20 mL) was added to the mixture. The reaction mixture was allowed to stir for 16 h at rt. The solution was quenched with water and diluted with EtOAc. The layers were separated and the organic phase was dried over MgSO4, filtered and evaporated under reduced pressure. The residue was subjected to chromatography on silica gel with 3% EtOAc:hexane. The fractions that contained the unsaturated esters were collected and evaporated to give the product, 1.67 g. The mixture of esters (1.67 g, 7.06 mmol) in EtOAc was hydrogenated in the presence of 5% Rh on Alumina (0.14 g) at 40–50 psi H2 at rt for 2 d. The mixture was filtered through a plug of Celite® and concentrated in vacuo to produce (4-chloro-indan-1-yl)-acetic acid ethyl ester (Intermediate TWENTYFOUR-2). Use of (4-chloro-indan-1-yl)-acetic acid ethyl ester (Intermediate TWENTYFOUR-2) in the applicable process steps described in Method SEVENTEEN and Method A produced 4-(4-chloro-indan-1-ylmethyl)-1,3-dihydro-imidazole-2-thione (Compound 166).

reactant | NaH | 12.2 mmol, 0.69 g | [H-].[Na+]
reactant | 4-chloro-indan-1-one | 8.8 mmol, 1.46 g | ClC1=C2CCC(C2=CC=C1)=O | C9H7ClO
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
catalyst | Rh on Alumina | 0.14 g | [Rh] | Rh
product | (4-chloro-indan-1-yl)-acetic acid ethyl ester | C(C)OC(CC1CCC2=C(C=CC=C12)Cl)=O | C13H15ClO2
